US08314091B2
A: (R)—N-sec-Butyl-3-(chloromethyl)benzamide
A solution of (R)-butan-2-amine (14.77 mmol, 1.478 mL, 1,081 g) and triethylamine (15.48 mmol, 2.157 mL, 1.566 g) in dichloromethane was added dropwise to a stirred solution of 3-(chloromethyl)benzoyl chloride (14.07 mmol, 2 mL, 2.66 g) in dichloromethane at room temperature. Upon complete addition the reaction was stirred for 2 hours, after which time the solvent was removed under vacuum and ethyl acetate (100 mL) added. The organic solution was then washed with water (200 mL), dried over sodium sulphate and concentrated under vacuum to give the title compound (2.47 g) as a cream solid. MS (ESI) m/z 226.3[M+H]+

reactant | (R)-butan-2-amine | 14.77 mmol, 1.478 mL, 1,081 g | C[C@H](CC)N | C4H11N
reactant | triethylamine | 15.48 mmol, 2.157 mL, 1.566 g | C(C)N(CC)CC | C6H15N
reactant | 3-(chloromethyl)benzoyl chloride | 14.07 mmol, 2 mL, 2.66 g | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)—N-sec-Butyl-3-(chloromethyl)benzamide | 2.47 g | [C@@H](C)(CC)NC(C1=CC(=CC=C1)CCl)=O | C12H16ClNO
